US08461158B2
Reaction of 4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-N-[3-(1-piperazinyl)propyl]-N-(4-piperidinyl)-1,3,5-triazin-2-amine with methane sulfonyl chloride in CH2Cl2 gave 4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-N-{3-[4-(methylsulfonyl)-1-piperazinyl]propyl}-N-[1-(methylsulfonyl)-4-piperidinyl]-6-(4-morpholinyl)-1,3,5-triazin-2-amine in 36% yield; mp (CH2Cl2/MeOH) 246-250° C.; 1H NMR (DMSO-d6) (rotamers) δ 7.94 and 7.89 (2d, J=8.3 Hz, 1H), 7.73 and 7.70 (2t, JHF=53.0, 52.9 Hz, 1H), 7.44 and 7.40 (2t, J=8.4, 8.2 Hz, 1H), 6.97 (dd, J=8.0, 3.3 Hz, 1H), 4.68-4.51 (m, 1H), 3.98 (s, 3H), 3.81-3.69 (m, 10H), 3.59-3.48 (m, 2H), 3.12-3.10 (m, 2H), 3.06-3.02 (m, 2H), 2.94 and 2.92 (2s, 3H), 2.90-2.78 (m, 2H), 2.87 and 2.83 (2s, 3H), 2.55-2.39 (m, 6H), 1.92-1.75 (m, 6H); Anal. Calcd. for C30H44F2N10O6S2.0.25H2O: C, 48.2; H, 6.0; N, 18.7. Found: C, 48.1; H, 6.0; N, 18.7%.

reactant | 4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-N-[3-(1-piperazinyl)propyl]-N-(4-piperidinyl)-1,3,5-triazin-2-amine | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(C1CCNCC1)CCCN1CCNCC1)C=CC=C2OC)F | C28H40F2N10O2
reactant | methane sulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-N-{3-[4-(methylsulfonyl)-1-piperazinyl]propyl}-N-[1-(methylsulfonyl)-4-piperidinyl]-6-(4-morpholinyl)-1,3,5-triazin-2-amine | 36% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(C1CCN(CC1)S(=O)(=O)C)CCCN1CCN(CC1)S(=O)(=O)C)C=CC=C2OC)F | C30H44F2N10O6S2
